US04379167
4-Chloro-1-(2-chlorophenoxy)-2-butanol
To a mixture of 129 g. (1 mole) of 2-chlorophenol, 60 g. of potassium hydroxide, 100 ml. of water and 400 ml. of isopropanol was added 1.3 moles (185.9 g.) of 1,4-dichloro-2-butanol with stirring at 50° C. The resulting mixture was heated in a steam bath at 65° C. overnight and extracted with 300 ml. of isopropyl ether. The ether extract was washed successively with 1 N sodium hydroxide, water and dried over sodium sulfate. The dried ether solution was concentrated and the oily residue was distilled under reduced pressure yielding 152 g. of an oily substance (b.p. 130°-131° C./0.01 mm.).

reactant | 2-chlorophenol | 1 mole | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | 1,4-dichloro-2-butanol | 1.3 moles, 185.9 g | ClCC(CCCl)O | C4H8Cl2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-Chloro-1-(2-chlorophenoxy)-2-butanol | ClCCC(COC1=C(C=CC=C1)Cl)O | C10H12Cl2O2
